US05607939
3,4-Dihydro-6-methoxyspiro[naphthalene-2(1H),2'-piperidine]hydrochloride
In 30 ml of trifluoroacetic acid was dissolved 6.57 g of 3,4-dihydro-6-methoxyspiro[naphthalene-2(1H),2'-piperidin]-1-one followed by addition of 8.5 ml of triethylsilane and the mixture was stirred for 1 hour. This reaction mixture was poured portionwise in water and after addition of 1N-hydrochloric acid, washed with hexane. The aqueous layer was made basic with 1N-aqueous sodium hydroxide solution and extracted with methylene chloride. The methylene chloride layer was dried over anhydrous sodium sulfate and filtered and the solvent was then distilled off. The residue was treated with 7.0 ml of 4N-methanolic HCl to give a solid. This solid was recrystallized from methanolether to provide 5.09 g of white crystals.

reactant | 3,4-dihydro-6-methoxyspiro[naphthalene-2(1H),2'-piperidin]-1-one | 6.57 g | COC=1C=C2CCC3(NCCCC3)C(C2=CC1)=O | C15H19NO2
reactant | triethylsilane | 8.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | hydrochloric acid | Cl | ClH
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 3,4-Dihydro-6-methoxyspiro[naphthalene-2(1H),2'-piperidine]hydrochloride | 5.09 g | Cl.COC=1C=C2CCC3(NCCCC3)CC2=CC1 | InChI=1S/C15H21NO.ClH/c1-17-14-5-4-13-11-15(7-2-3-9-16-15)8-6-12(13)10-14;/h4-5,10,16H,2-3,6-9,11H2,1H3;1H
